US08729105B2
Preparation of (6-chloro-4-iodo-5-cyclopropylmethoxy-pyridin-2-yl)-methanol
The title compound was synthesized in analogy to Example A, using 6-chloro-5-hydroxy-4-iodo-2-pyridinemethanol and cyclopropylmethyl bromide as starting materials; LC-MS (UV peak area/ESI) 95.8%, 339.9584 (M+H)+.

reactant | 6-chloro-5-hydroxy-4-iodo-2-pyridinemethanol | ClC1=C(C(=CC(=N1)CO)I)O | C6H5ClINO2
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
product | (6-chloro-4-iodo-5-cyclopropylmethoxy-pyridin-2-yl)-methanol | ClC1=C(C(=CC(=N1)CO)I)OCC1CC1 | C10H11ClINO2
